US07378409B2
A solution of (7-Oxo-6-oxa-bicyclo[3.2.1]oct-2-yl)-carbamic acid benzyl ester (2.26 g, 8.2 mmol) in toluene (80 mL) was cooled to −78° C. and treated dropwise with DIBAL-H (11 mL of a 1.0 M toluene solution). The reaction mixture was stirred for 2 h at −78° C. and quenched with 50 mL of 1 N HCl. The mixture was allowed to warm to RT and then extracted with EtOAc (1×). The organic phase was washed with half-saturated brine. The combined aqueoues phases were back extracted with EtOAc (1×). The organic extracts were combined, washed with brine, dried (MgSO4), filtered, and concentrated in vacuo to afford a colorless oil. This material was dissolved in THF (100 mL). The resultant solution was cooled to 0° C. and charged successively with ethyltriphenylphosphonium iodide (5.3 g, 12.3 mmol) and KHMDS (49 mL of a 0.5 M solution in toluene). The ice bath was removed and the reaction was stirred for 4 h at RT before being quenched with the addition of 1 N HCl (50 mL). The biphasic mixture was partitioned between 1 N HCl (50 mL) and EtOAc (50 mL). The aqueous phase was extracted with EtOAc (2×). The organic extracts were combined, washed with brine, dried (MgSO4), filtered, and concentrated in vacuo. Purification of the residue via flash chromatography afforded the desired [(1S,2R,4R)-(4-hydroxy-2-propenyl-cyclohexyl)]-carbamic acid benzyl ester as a colorless oil (0.56 g). MS found: (M+H)+=312.26.

reactant | (7-Oxo-6-oxa-bicyclo[3.2.1]oct-2-yl)-carbamic acid benzyl ester | 8.2 mmol, 2.26 g | C(C1=CC=CC=C1)OC(NC1C2C(OC(CC1)C2)=O)=O | C15H17NO4
reactant | DIBAL-H | CC(C)C[AlH]CC(C)C
reactant | KHMDS | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
solvent | toluene | 80 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 100 mL | C1CCOC1 | C4H8O
catalyst | ethyltriphenylphosphonium iodide | 12.3 mmol, 5.3 g | [I-].C(C)[P+](C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1
solvent | toluene | 1.0 M | C1(=CC=CC=C1)C | C7H8
product | [(1S,2R,4R)-(4-hydroxy-2-propenyl-cyclohexyl)]-carbamic acid benzyl ester | 0.56 g | C(C1=CC=CC=C1)OC(N[C@@H]1[C@H](C[C@@H](CC1)O)C=CC)=O | C17H23NO3
